US07994336B2
a) Synthesis of 3-(3-bromo-4-fluoro-phenyl)-3-chloro-2-oxo-propionic acid methyl ester
This compound was synthesised as 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester but using 3-bromo-4-fluorobenzaldehyde instead 4-fluorobenzaldehyde.

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | 3-bromo-4-fluorobenzaldehyde | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-(3-bromo-4-fluoro-phenyl)-3-chloro-2-oxo-propionic acid methyl ester | COC(C(C(Cl)C1=CC(=C(C=C1)F)Br)=O)=O | C10H7BrClFO3
